* Schematics Netlist *



V_V1         $N_0001 0 DC 0 AC 5V
+SIN 0 12 1K 0 0 0
D_D1         $N_0002 $N_0001 D1N4001 
R_R1         0 $N_0002  1k  
